US07973051B2
i) 4-Methyl-5-trifluoromethylsulfanyl-thiazol-2-ylamine
The title compound was prepared in analogy to the procedure described in Example 87iii) starting from 4-methyl-thiazol-2-ylamine and trifluoro-trifluoromethyldisulfanyl-methane.

reactant | 4-methyl-thiazol-2-ylamine | CC=1N=C(SC1)N | C4H6N2S
reactant | trifluoro-trifluoromethyldisulfanyl-methane | FC(SSC(F)(F)F)(F)F | C2F6S2
product | 4-Methyl-5-trifluoromethylsulfanyl-thiazol-2-ylamine | CC=1N=C(SC1SC(F)(F)F)N | C5H5F3N2S2
